US06051586
EXAMPLE 9 1-(4-Nitrophenyl)-4-propyl-5-tetrazolone
To a stirred solution of 1-(4-nitrophenyl)-5-tetrazolone (6 g) in anhydrous N,N-dimethylformamide (30 mL) was added powdered 85% potassium hydroxide (1.9 g) and 1-bromopropane (3.9 g). The mixture was stirred at 55° C. for 2 hours and then poured into 300 mL of water. The biphasic mixture was extracted with ethyl acetate, dried (MgSO4), filtered and concentrated in vacuo. The crude product was purified by flash chromatography (silica gel, ethyl acetate:hexane) to afford 7.2 g of the title compound as a pale yellow solid. 1H NMR (CDCl3) δ 8.32 (ABq, JAB =9.6 Hz, 4 H), 4.02 (t, J=7.2 Hz, 2 H), 1.93 (m, 2 H), 1.03 (t, J=7.5 Hz, 3 H); MS (CI) m/z 250 (MH+); Rf =0.6 (25% ethyl acetate/hexane).

reactant | 1-(4-nitrophenyl)-5-tetrazolone | 6 g | [N+](=O)([O-])C1=CC=C(C=C1)N1NN=NC1=O | C7H5N5O3
reactant | potassium hydroxide | 1.9 g | [OH-].[K+]
reactant | 1-bromopropane | 3.9 g | BrCCC | C3H7Br
reactant | water | 300 mL | O | H2O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-(4-Nitrophenyl)-4-propyl-5-tetrazolone | 7.2 g | [N+](=O)([O-])C1=CC=C(C=C1)N1N=NN(C1=O)CCC | C10H11N5O3
